US09371320B2
D) methyl 1-cyclopentyl-4-methoxy-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carboxylate
To a solution of methyl 4-chloro-1-cyclopentyl-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carboxylate (1.37 g) in methanol (5 mL) was added sodium methoxide (28% methanol solution, 5 mL), and the mixture was stirred at 70° C. for 3 hr. The reaction mixture was concentrated under reduced pressure, to the residue was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give the title compound (879 mg).

reactant | methyl 4-chloro-1-cyclopentyl-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carboxylate | 1.37 g | ClC1NC=C(C2=C1C=CN2C2CCCC2)C(=O)OC | C14H17ClN2O2
reactant | sodium methoxide | 5 mL | C[O-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | methyl 1-cyclopentyl-4-methoxy-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carboxylate | 879 mg | C1(CCCC1)N1C=CC=2C(NC=C(C21)C(=O)OC)OC | C15H20N2O3
